US07091232B2
A solution of LDA (33 ml, 1.5 M in Et2O) in THF (50 mL) at −78° C. was treated with 4-(2-benzyloxy-ethyl)-cyclohexanone (9.5 g, 40.2 mmol). The mixture was warmed to 0° C. over 30 min. before re-cooling to −78° C. and adding HMPA (7 mL). Methyl cyanoformate (CNCO2Me, 4.1 mL, 85 mmol) was added and the mixture was stirred for 15 m before aqueous quench and work-up. The product was purified by chromatography on SiO2 with 10% EtOAc:Hx. 5-(2-Benzyloxy-ethyl)-2-oxo-)cyclohexanecarboxylic acid methyl ester was isolated, 5.8 g (49%).

reactant | LDA | 1.5 M, 33 ml | [Li+].CC(C)[N-]C(C)C
reactant | 4-(2-benzyloxy-ethyl)-cyclohexanone | 40.2 mmol, 9.5 g | C(C1=CC=CC=C1)OCCC1CCC(CC1)=O | C15H20O2
reactant | HMPA | 7 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | Methyl cyanoformate | 85 mmol, 4.1 mL | C(#N)C(=O)OC | C3H3NO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | cyclohexanecarboxylic acid methyl ester | COC(=O)C1CCCCC1 | C8H14O2
